US04204068
Diethyl 2-(3-oxooctylamino)nonanedioate (7.7 g) prepared by the method described in Example 1B was treated with potassium cyanate and hydrochloric acid to give 5-(6-ethoxycarbonylhexyl)-1-(3-oxo-octyl)hydantoin. Hydrolysis of this ester using sodium hydroxide solution gave 5-(6-carboxyhexyl)-1-(3-oxooctyl)hydantoin as a viscous oil, which crystallised to a low-melting solid.

reactant | Diethyl 2-(3-oxooctylamino)nonanedioate | 7.7 g | O=C(CCNC(C(=O)OCC)CCCCCCC(=O)OCC)CCCCC | C21H39NO5
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | hydrochloric acid | Cl | ClH
product | 5-(6-ethoxycarbonylhexyl)-1-(3-oxo-octyl)hydantoin | C(C)OC(=O)CCCCCCC1C(NC(N1CCC(CCCCC)=O)=O)=O | C20H34N2O5
